US07790770B2
To a solution of (R)-2,2-difluoro-3-(3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)ureido)propanoic acid (60 mg, 0.1 mmol) in CH2Cl2 (1 mL) at 0° C. was added ethyl carbonochloridate (10 uL, 0.1 mmol), followed by NEt3 (0.021 mL, 0.15 mmol) and NH3.H2O (0.1 mL, 2.6 mmol). The reaction mixture was stirred at rt for 30 min, then concentrated under reduced pressure and purified by prep HPLC (Phenomenex AXIA Luna 75×30 mm, 5μ column eluting with 10-90% ACN/H2O over 10 minutes containing 0.1% TFA; 40 mL/min, monitoring at 220 nm) to yield (R)-2,2-difluoro-3-(3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)ureido)propanamide as a white solid (12 mg, 21% yield). LCMS: RT=3.85 min [M+H] 576.1 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm).

reactant | (R)-2,2-difluoro-3-(3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)ureido)propanoic acid | 0.1 mmol, 60 mg | FC(C(=O)O)(CNC(=O)N[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)F | C26H20F8N2O4
reactant | ethyl carbonochloridate | 0.1 mmol, 10 uL | C(OCC)(=O)Cl | C3H5ClO2
reactant | NEt3 | 0.15 mmol, 0.021 mL | CCN(CC)CC | C6H15N
reactant | NH3.H2O | 2.6 mmol, 0.1 mL | N.O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-2,2-difluoro-3-(3-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(4-fluorophenyl)-2-phenylethyl)ureido)propanamide | 12 mg, 21% yield | FC(C(=O)N)(CNC(=O)N[C@](CC1=CC=CC=C1)(C1=CC=C(C=C1)F)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)F | C26H21F8N3O3
